US08003604B2
(1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid (490 mg, 0.79 mmol) was dissolved in 15 mL of THF and treated with CDI (179 mg, 1.10 mmol.). (Care was taken to avoid moisture by using oven dried glassware and maintaining a dry N2 atmosphere.) After refluxing the reaction mixture for two hours, it was cooled to rt and treated sequentially with cyclopropylsulfonamide (134 mg, 1.10 mmol.) and DBU (168 mg, 1.10 mmol.). After stirring overnight at rt, the THF was removed by rotary evaporation. The residue was dissolved in water and 1N HCl was added until the pH=5. This aqueous solution was extracted with EtOAc (3×). The combined EtOAc extracts were dried (MgSO4) and concentrated in vacuo to give the crude product. Purification by flash column, eluting with 3% methanol in methylene chloride, gave 300 mg (53%) of (1S,4R,6S,14S,18R)-[7-cis-4-Cyclopropanesulfonylaminocarbonyl-12-cyclopropyl-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]carbamic acid, tert-butyl ester as a white solid: LC-MS (Phenomenex 10 μm C18 HPLC column: 3.0×50 mm length. Gradient: 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B. Gradient time: 2 min. Hold time: 1 min. Flow rate: 5 mL/min. Detector Wavelength: 220 nM. Solvent A: 10% MeOH/90% H2O/0.1% TFA. Solvent B: 10% H2O/90% MeOH/0.1% TFA.) (Retention time: 2.40 min), MS m/z 724 (M++1).

reactant | (1S,4R,6S,14S,18R)-7-cis-14-tert-Butoxycarbonylamino-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid | 0.79 mmol, 490 mg | C(C)(C)(C)OC(=O)N[C@H]1CNCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)O[Si](C)(C)C(C)(C)C)=O)C(=O)O | C28H48N4O7Si
reactant | CDI | 1.10 mmol, 179 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclopropylsulfonamide | 1.10 mmol, 134 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 1.10 mmol, 168 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (1S,4R,6S,14S,18R)-[7-cis-4-Cyclopropanesulfonylaminocarbonyl-12-cyclopropyl-18-(tert-butyldimethylsilyloxy)-2,15-dioxo-3,12,16-triaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]carbamic acid, tert-butyl ester | 300 mg, 53% | C1(CC1)S(=O)(=O)NC(=O)[C@@]12NC([C@@H]3C[C@H](CN3C([C@H](CN(CCC\C=C/[C@@H]2C1)C1CC1)NC(OC(C)(C)C)=O)=O)O[Si](C)(C)C(C)(C)C)=O | C34H57N5O8SSi
